US07253154B2
6-Amino-8-(4-isobutoxy-3-nitrophenyl)purine (1) 4,6-Diamino-5-(4-isobutoxy-3-nitrobenzoyl)aminopyridine
A solution of 4-isobutoxy-3-nitrobenzoyl chloride (538 mg, 2.09 mmol) in 1,4-dioxane (2 mL) was dropwise added to a suspension of 4,5,6-triaminopyrimidine sulfate (466 mg, 2.09 mmol) in aqueous 1M sodium hydroxide (4.18 30 mL) under cooling with ice. The resulting mixture was stirred for 4 hours at the same temperature. Water (12 mL) was added to the reaction mixture. The precipitated solid product was collected by filtration, dried in air, and subjected to silica gel column chromatography. The elute using chloroform/methanol (10/1) gave 144 mg (yield 20%) of the desired compound in the form of a yellow powdery product.

reactant | 4-isobutoxy-3-nitrobenzoyl chloride | 2.09 mmol, 538 mg | C(C(C)C)OC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C11H12ClNO4
reactant | 4,5,6-triaminopyrimidine sulfate | 2.09 mmol, 466 mg | S(=O)(=O)(O)O.NC1=NC=NC(=C1N)N
reactant | Water | 12 mL | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 1M, 30 mL | [OH-].[Na+]
product | 6-Amino-8-(4-isobutoxy-3-nitrophenyl)purine | 144 mg, yield 20% | NC1=C2NC(=NC2=NC=N1)C1=CC(=C(C=C1)OCC(C)C)[N+](=O)[O-] | C15H16N6O3
